US08455500B2
<Step 1> Synthesis of 3-(2,3-dichlorophenyl)propionic acid
To a solution of 2,3-dichlorocinnamic acid (1.0 g) in methanol (50 mL), magnesium (1.34 g) was added under ice-cooling and the resultant reaction mixture was stirred at room temperature for 3 days. To the reaction mixture, a saturated ammonium chloride aqueous solution was added and the resultant reaction mixture was extracted with dichloromethane. The organic phase was washed with a saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure to obtain the subject compound (912 mg) as a white solid.

reactant | 2,3-dichlorocinnamic acid | 1.0 g | ClC1=C(C=CC(=O)O)C=CC=C1Cl | C9H6Cl2O2
reactant | magnesium | 1.34 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-(2,3-dichlorophenyl)propionic acid | 912 mg | ClC1=C(C=CC=C1Cl)CCC(=O)O | C9H8Cl2O2
